US04596819
(8a S)-Tetrahydro-3-(2-methylpropyl-1H-pyrrolo [2,1-c][1,4] oxazine-4(3H)-one, 5.1 g (0.026 mol), is suspended in a solution of 50 ml of concentrated hydrochloric acid and 50 ml of water and refluxed for four hours, cooled to room temperature and extracted with 200 ml of dichloromethane. The aqueous layer is separated, evaporated in vacuo, the residue dissolved in 200 ml of water, and the pH adjusted with a 10% aqueous solution of sodium hydroxide to pH 10-10.5. The solution is cooled to 5° C. and 4.44 g (0.026 mol) of benzylchloroformate is added dropwise while the pH is maintained at pH 10 with a 10% aqueous solution of sodium hydroxide. The mixture is stirred one hour, extracted with 100 ml of diethylether, the aqueous layer is separated and the pH is adjusted to pH 3-4 by the addition of a 10% aqueous solution of hydrochloric acid. The mixture is extracted with dichloromethane, 3×200 ml. The dichloromethane layer is separated, washed with a saturated aqueous solution of sodium chloride, 3×200 ml, separated, dried over sodium sulfate, evaporated, and the residue is purified by chromatography using silica gel and eluting with dichloromethane-methanol (95:5) to give (2S)-phenylmethyl 2-[(1-carboxy-3-methylbutoxy)methyl]-1-pyrrolidinecarboxylate (center on side chain is R, S mixture), 4.3 g; [α]D25 -78.7° (c 0.33, methanol).

reactant | 2-methylpropyl-1H-pyrrolo [2,1-c][1,4] oxazine-4(3H)-one | CC(CC1OCC(N2C1=CC=C2)=O)C | C11H15NO2
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | benzylchloroformate | 0.026 mol, 4.44 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | (2S)-phenylmethyl 2-[(1-carboxy-3-methylbutoxy)methyl]-1-pyrrolidinecarboxylate | C(=O)(O)C(CC(C)C)OC[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C19H27NO5
